US06982274B2
(3-Bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanone
To a solution of 1.72 g of (3-bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanol in 34.4 ml methylene chloride was added 5.16 g of activated manganese dioxide, followed by stirring at room temperature for 17 hours. Then, the manganese dioxide was filtered off through Celite. The solvent was removed by distillation, to give 1.63 g of the title compound as a yellow oil.

reactant | (3-bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanol | 1.72 g | BrC=1C(=C(C(=CC1)F)C(O)C1=CC2=CC=CC=C2C=C1)OC | C18H14BrFO2
solvent | methylene chloride | 34.4 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5.16 g | [O-2].[O-2].[Mn+4]
product | (3-Bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanone | 1.63 g | BrC=1C(=C(C(=CC1)F)C(=O)C1=CC2=CC=CC=C2C=C1)OC | C18H12BrFO2
